US08383638B2
A solution of tert-butyl 4-fluoro-4-pyridin-2-ylpiperidine-1-carboxylate (0.075 g, 0.27 mmol.) in 10 mL of ethyl acetate was saturated with gaseous HCl. After 1 h, the reaction was concentrated in vacuo to provide 2-(4-fluoropiperidin-4-yl)pyridine that gave a mass ion (ES+) of 181.1 for [M+H]+

reactant | tert-butyl 4-fluoro-4-pyridin-2-ylpiperidine-1-carboxylate | 0.27 mmol, 0.075 g | FC1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C15H21FN2O2
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluoropiperidin-4-yl)pyridine | FC1(CCNCC1)C1=NC=CC=C1 | C10H13FN2
